US04250174
Alternatively, one may treat a suspension of 3-bromo-2(methoxycarbonylamino)-6(phenylthio) imidazo [1,2-a] pyridine (1.0 gm. 2.64 mmoles) in 100 ml. of dichloromethane with 85% metachloroperbenzoic acid (464 mg., 2.64 mmoles). After 1 hour at room temperature, the solution is washed with aqueous saturated sodium bicarbonate solution, and with water. After drying the solvent is removed in vacuo and the residue is chromatographed over silica gel to yield 3-bromo-2-(methoxycarbonylamino)-6-phenylsulfinyl imidazo [1,2-a] pyridine m.p. 150°-152° C.

reactant | 3-bromo-2(methoxycarbonylamino)-6(phenylthio) imidazo [1,2-a] pyridine | 2.64 mmoles, 1.0 gm | BrC1=C(N=C2N1C=C(C=C2)SC2=CC=CC=C2)NC(=O)OC | C15H12BrN3O2S
reactant | metachloroperbenzoic acid | 2.64 mmoles, 464 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-bromo-2-(methoxycarbonylamino)-6-phenylsulfinyl imidazo [1,2-a] pyridine | BrC1=C(N=C2N1C=C(C=C2)S(=O)C2=CC=CC=C2)NC(=O)OC | C15H12BrN3O3S
